US05661161
Step C: 3-Ethylproline hydrochloride (Cis:Trans Mixture)
Diethyl 1-acetyl-3-ethylpyrrolidine-2,2-dicarboxylate (373 g, 0.95 mol) was suspended in 6N HCl (2 L) and HOAc (500 mL) and heated at reflux for 20 h. The reaction mixture was cooled, washed with EtOAc (1 L), then concentrated in vacuo to give an oil which crystallized upon trim ration with ether to give 170 g of the title compound. 1H NMR (D2O) δ 4.23 (d, 1H, J=8 Hz), 3.84 (d, 1H, J=8 Hz), 3.15-3.4 (m, 4H), 2.33-2.44 (m, 1H), 2.19-2.4 (m, 1H), 2.02-2.15 (m, 2H), 1.53-1.72 (m, 3H), 1.23-1.43 (m, 2H), 1.0-1.15 (m, 1H), 0.75-0.83 (m, 6H).

reactant | Diethyl 1-acetyl-3-ethylpyrrolidine-2,2-dicarboxylate | 0.95 mol, 373 g | C(C)(=O)N1C(C(CC1)CC)(C(=O)OCC)C(=O)OCC | C14H23NO5
reactant | HOAc | 500 mL | CC(=O)O | C2H4O2
reactant | HCl | 6N, 2 L | Cl | ClH
product | 3-Ethylproline hydrochloride | 170 g | Cl.C(C)C1[C@H](NCC1)C(=O)O | InChI=1S/C7H13NO2.ClH/c1-2-5-3-4-8-6(5)7(9)10;/h5-6,8H,2-4H2,1H3,(H,9,10);1H/t5?,6-;/m0./s1
